US07723333B2
1-Pyridin-2-ylpiperidin-4-amine dihydrochloride
A solution of tert-butyl (1-pyridin-2-ylpiperidin-4-yl)carbamate (0.64 g, 2.31 mmol) in HCl in Dioxane (4M, 3.5 ml), THF (2.5 ml) and MeOH (2 ml) was stirred at rt for 17 h. The reaction mixture was filtered, the residue washed with EtOAc and dried to give the title compound (0.49 mg, 85%) as a solid. 1H NMR (500 MHz, D2O): 7.91 (dd, 1H), 7.78 (d, 1H), 7.22 (d, 1H), 6.88 (t, 1H), 4.12 (d, 2H), 3.56-3.48 (m, 1H), 3.26 (t, 2H), 2.15 (d, 2H), 1.67 (dq, 2H); 13C NMR (D2O): 152.1, 144.7, 135.9, 113.3, 47.6, 44.7, 28.8; Mass Spectrum: M+H 178

reactant | tert-butyl (1-pyridin-2-ylpiperidin-4-yl)carbamate | 2.31 mmol, 0.64 g | N1=C(C=CC=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H23N3O2
reactant | THF | 2.5 ml | C1CCOC1 | C4H8O
reactant | MeOH | 2 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | Dioxane | 4M, 3.5 ml | O1CCOCC1 | C4H8O2
product | 1-Pyridin-2-ylpiperidin-4-amine dihydrochloride | 0.49 mg, 85% | Cl.Cl.N1=C(C=CC=C1)N1CCC(CC1)N | InChI=1S/C10H15N3.2ClH/c11-9-4-7-13(8-5-9)10-3-1-2-6-12-10;;/h1-3,6,9H,4-5,7-8,11H2;2*1H
